US07449586B2
(R)-Benzyl 3-(7-methyl-1H-indazol-5-yl)-1-oxo-1-(pyridin-2-ylmethylamino)propan-2-ylcarbamate
2-(Benzyloxycarbonyl)-3-(7-methyl-1H-indazol-5-yl)propanoic acid (0.47 g, 1.32 mmol), hydroxybenzotriazole (0.2 g, 1.46 mmol), 1-(3-dimethyl aminopropyl)-3-ethyl carbodiimide hydrochloride (0.28 g, 1.46 mmol), and 2-picolyl amine (0.56 mL, 1.46 mmol) were combined in ethyl acetate (10.0 mL). To this solution was added triethylamine (0.56 mL, 4.0 mmol) and the reaction mixture stirred at 40° C. for 2 h. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate, washed with 5% citric acid (2×), brine (2×), dried over sodium sulfate, and concentrated to afford 0.42 g (72%).

reactant | 2-(Benzyloxycarbonyl)-3-(7-methyl-1H-indazol-5-yl)propanoic acid | 1.32 mmol, 0.47 g | C(C1=CC=CC=C1)OC(=O)C(C(=O)O)CC=1C=C2C=NNC2=C(C1)C | C19H18N2O4
reactant | hydroxybenzotriazole | 1.46 mmol, 0.2 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 2-picolyl amine | 1.46 mmol, 0.56 mL | N1=C(C=CC=C1)CN | C6H8N2
reactant | triethylamine | 4.0 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 10.0 mL | C(C)(=O)OCC | C4H8O2
product | (R)-Benzyl 3-(7-methyl-1H-indazol-5-yl)-1-oxo-1-(pyridin-2-ylmethylamino)propan-2-ylcarbamate | CC=1C=C(C=C2C=NNC12)C[C@H](C(NCC1=NC=CC=C1)=O)NC(OCC1=CC=CC=C1)=O | C25H25N5O3
